US08492395B2
To a stirred mixture of 2-amino-4,5-dimethoxybenzoic acid (5.0 g, 25 mmol) and imidazole (2.1 g, 30 mmol) in acetonitrile (50 mL), was added acetyl chloride (2.2 mL, 30 mmol) at room temperature. The mixture was stirred at room temperature overnight. To the mixture, was added 3-amino-piperidine-2,6-dione hydrogen chloride (4.2 g, 25 mmol), imidazole (3.8 g, 56 mmol) and triphenyl phosphite (7.3 mL, 28 mmol) and heated to reflux for 22 hours. The suspension was filtered and washed with acetonitrile (50 mL) and water (2×50 mL) to give a solid. The solid was stirred in sodium hydrogen carbonate (sat, 50 mL), and water (50 mL) for 1 hour. The suspension was filtered and washed with water (2×50 mL) and ethyl acetate (30 mL) to give 3-(6,7-dimethoxy-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as a white solid (5.7 g, 68% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 20/80 CH3CN/0.1% H3PO4, 3.26 min (99.8%); mp: 325° C. (decomp); 1H NMR (DMSO-d6) δ 2.15-2.19 (m, 1H, CHH), 2.56-2.88 (m, 6H, CH3, CH2, CHH), 3.85 (s, 3H, CH3), 3.90 (s, 3H, CH3), 5.22 (dd, J=5, 11 Hz, 1H, NCH), 7.09 (s, 1H, Ar), 7.35 (s, 1H, Ar), 10.99 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.12, 23.21, 30.62, 55.63, 55.97, 56.38, 104.98, 107.31, 113.27, 143.09, 148.40, 153.24, 154.83, 159.76, 169.61, 172.64; LCMS: MH=332; Anal Calcd for C16H17N3O5: C, 58.00; H, 5.17; N, 12.68. Found: C, 57.88; H, 5.06; N, 12.77.

reactant | 2-amino-4,5-dimethoxybenzoic acid | 25 mmol, 5.0 g | NC1=C(C(=O)O)C=C(C(=C1)OC)OC | C9H11NO4
reactant | imidazole | 30 mmol, 2.1 g | N1C=NC=C1 | C3H4N2
reactant | acetyl chloride | 30 mmol, 2.2 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 25 mmol, 4.2 g | Cl.NC1C(NC(CC1)=O)=O
reactant | imidazole | 56 mmol, 3.8 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphite | 28 mmol, 7.3 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | water | 50 mL | O | H2O
product | 3-(6,7-dimethoxy-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 5.7 g, 68% yield | COC=1C=C2C(N(C(=NC2=CC1OC)C)C1C(NC(CC1)=O)=O)=O | C16H17N3O5
